US07192974B2
Intermediate 8a: 5-Bromopyridine-2-carbaldehyde oxime
5-Bromo-pyridine-2-carbaldehyde (X. Wang et al, Tetrahedron Letters 41 (2000), 4335–4338) (60 g, 322 mmol) was added to methanol (700 ml) and then water was added (700 ml) followed by addition of hydroxylamine hydrochloride (28 g, 403 mmol). Sodium carbonate (20.5 g, 193.2 mmol) in water (200 ml) was added and the reaction was stirred for 30 minutes. Water (500 ml) was then added and the precipitate was filtered and washed with water (2×300 ml) to give the desired product (60 g).

reactant | 5-Bromo-pyridine-2-carbaldehyde | 322 mmol, 60 g | BrC=1C=CC(=NC1)C=O | C6H4BrNO
reactant | methanol | 700 ml | CO | CH4O
reactant | hydroxylamine hydrochloride | 403 mmol, 28 g | Cl.NO
reactant | Sodium carbonate | 193.2 mmol, 20.5 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | water | 200 ml | O | H2O
solvent | Water | 500 ml | O | H2O
product | 5-Bromopyridine-2-carbaldehyde oxime | 60 g | BrC=1C=CC(=NC1)C=NO | C6H5BrN2O
